US06432993B1
(23-2a) 5-{4-[6-(4-Hydroxyphenylthio)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}-thiazolidine-2,4-dione
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(4-hydroxyphenylthio)phenyl]-N-methylcarbamate (2.36 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (2.87 g), diethyl cyanophosphonate (1.67 g), triethylamine (1.03 g) and anhydrous tetrahydrofuran (60 ml) and the reaction mixture was purified. Then, in a similar manner to that described in Example (2-2a) a reaction was carried out using the above product and 4N hydrogen chloride/dioxane (20 ml) and the reaction mixture was purified to give the desired compound (0.72 g).

reactant | t-butyl N-[2-amino-5-(4-hydroxyphenylthio)phenyl]-N-methylcarbamate | 2.36 g | NC1=C(C=C(C=C1)SC1=CC=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C18H22N2O3S
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 2.87 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 1.67 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.03 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-{4-[6-(4-Hydroxyphenylthio)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}-thiazolidine-2,4-dione | 0.72 g | OC1=CC=C(C=C1)SC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C25H21N3O4S2
